US05990118
(1) Synthesis of 6-hydrazino-9H-purine-2(3H)-thione [16]
2,6-Dithioxo-1,2,3,6-tetrahydro-9H-purine (0.5 g, 2.7 mmol) was added to 80% hydrazine hydrate (5 ml), and the mixture was stirred with heat for 10 minutes at 120° C. After completion of reaction, crystals that precipitated were collected by filtration, and washed with water. The crystals were recrystallized from water to obtain 0.30 g (yield 61%) of colorless powdery crystals (m.p.=292° C. (decomposed)).

reactant | 2,6-Dithioxo-1,2,3,6-tetrahydro-9H-purine | 2.7 mmol, 0.5 g | S=C1NC(C=2N=CNC2N1)=S | C5H4N4S2
reactant | hydrazine hydrate | 5 ml | O.NN
product | 6-hydrazino-9H-purine-2(3H)-thione | 0.30 g, yield 61% | N(N)C=1C=2N=CNC2NC(N1)=S | C5H6N6S
